US09212187B2
Synthesis of 3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) propionic acid ethyl ester
10% Palladium on carbon(0.1 g) was added to a methanol solution(10 ml) of (E)-3-(1-ethyl 3,3,5-trimethyl 2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) acrylic acid ethyl ester(0.36 g). The mixture was subjected to catalytic reduction at room temperature and under normal pressure. The catalyst was removed by celite filtration, followed by concentration under reduced pressure to give the title compound(0.29 g) as a brown solid.

reactant | (E)-3-(1-ethyl 3,3,5-trimethyl 2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) acrylic acid ethyl ester | 0.36 g | C(C)OC(\C=C\C1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C19H24N2O4
catalyst | Palladium on carbon | 0.1 g | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) propionic acid ethyl ester | 0.29 g | C(C)OC(CCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C19H26N2O4
